US04327215
In a preferred embodiment, the 2,8-bis-(trifluoromethyl)-quinoline-4-carboxylic acid, or a salt thereof, is prepared from 7-trifluoromethyl-isatin by reaction with 1,1,1-trifluoroacetone in the presence of a strong base, the 7-trifluoromethylisatin required as an intermediate being advantageously obtained by reacting 2-trifluoromethyl-aniline with chloral hydrate and hydroxylammonium chloride to give 2-trifluoromethyloximino-acetanilide, the latter being cyclized with concentrated sulfuric acid using a concentration of the acetanilide in the sulfuric acid of from 10 to 15% at from 75° to 85° C. in the course of from 30 minutes to 1 hour.

reactant | 2,8-bis-(trifluoromethyl)-quinoline-4-carboxylic acid | FC(C1=NC2=C(C=CC=C2C(=C1)C(=O)O)C(F)(F)F)(F)F | C12H5F6NO2
reactant | 7-trifluoromethyl-isatin | FC(C=1C=CC=C2C(C(NC12)=O)=O)(F)F | C9H4F3NO2
reactant | 1,1,1-trifluoroacetone | FC(C(=O)C)(F)F | C3H3F3O
reactant | 2-trifluoromethyl-aniline | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | chloral hydrate | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | hydroxylammonium chloride | [Cl-].O[NH3+]
product | 2-trifluoromethyloximino-acetanilide | FC(C(C(=O)NC1=CC=CC=C1)=NO)(F)F | C9H7F3N2O2
